US07183294B2
Preparation 42: (3-Methyl-pyridin-2-yl)methylamine
3-Methylpyridine-2-carbonitrile (2.0 g, 16.95 mmol) in THF (50 ml) at 0° C. was added to a solution of lithium aluminium hydride (16.95 ml, 1 M in THF) and the mixture allowed to warm to RT overnight. The reaction was cooled to 0° C. and quenched with ethyl acetate (2.5 ml). Sodium hydroxide (2.5 ml, 1 M) was added and the mixture stirred at RT for 1 h, then filtered through Celite®. The filtrate was extracted with ethyl acetate (2×20 ml) and the combined organics washed with brine (50 ml) and dried (MgSO4). The crude material was purified by chromatography (0–5% MeOH in CH2Cl2+1% NH3) to yield a yellow oil (282 mg).

reactant | 3-Methylpyridine-2-carbonitrile | 16.95 mmol, 2.0 g | CC=1C(=NC=CC1)C#N | C7H6N2
reactant | lithium aluminium hydride | 1 M, 16.95 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (3-Methyl-pyridin-2-yl)methylamine | 282 mg | CC=1C(=NC=CC1)CN | C7H10N2
